US06908929B2
2-(4-Benzylaminopropoxyphenyl)-8-methylimidazo[1,2-a]pyridine Ki=1000 nM
This compound was prepared according to the procedure described in Example 1 of U.S. Pat. No. 4,727,145. using 2-(4-chloropropoxyphenyl)-8-methylimidazo[1,2-a]pyridine and aniline instead of 2-(4-chloropropoxyphenyl)-imidazo[1,2-a]pyridine and dibutylamine respectively.

reactant | 2-(4-chloropropoxyphenyl)-8-methylimidazo[1,2-a]pyridine | ClCCCOC1=CC=C(C=C1)C=1N=C2N(C=CC=C2C)C1 | C17H17ClN2O
reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | dibutylamine | C(CCC)NCCCC | C8H19N
product | 2-(4-Benzylaminopropoxyphenyl)-8-methylimidazo[1,2-a]pyridine | C(C1=CC=CC=C1)NCCCOC1=CC=C(C=C1)C=1N=C2N(C=CC=C2C)C1 | C24H25N3O
